US03984465
Step B: 2,2-Diethyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred suspension of 2,2-diethyl-5-methoxy-6,7-dichloro- 1-indanone (4.0 g., 0.014 mole) and aluminum chloride (4.7 g., 0.035 mole) in heptane (150 ml.) is refluxed for one hour and cooled. The heptane is decanted from the reaction mixture and the solid residue is treated with water (200 ml.) and concentrated hydrochloric acid (20 ml.). The 2,2-diethyl-5-hydroxy-6,7-dichloro-1-indanone which separates (3.7 g.) melts at 184° C. after recrystalization from butyl chloride.

reactant | 2,2-diethyl-5-methoxy-6,7-dichloro- 1-indanone | 0.014 mole, 4.0 g | C(C)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)CC | C14H16Cl2O2
reactant | aluminum chloride | 0.035 mole, 4.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | heptane | 150 ml | CCCCCCC | C7H16
product | 2,2-Diethyl-5-hydroxy-6,7-dichloro-1-indanone | C(C)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)CC | C13H14Cl2O2
